US05773388
Synthesis of 1-Chloro-4-cyclohexyl-1,1-difluoro-2,4-butanedione (Compound No. 305)
74.8 g of sodium methoxide was added to 1 l of ether, and a solution of 200 g of ethyl chlorodifluoroacetate in 300 ml of ether was added dropwise thereto under stirring at 0° C. Then, a solution of 106 g of cyclopropyl methyl ketone in 300 ml of ether was gradually added to the reaction solution, and after the addition, the mixture was stirred at room temperature for 8 hours. The solvent was distilled off under reduced pressure, 300 ml of 6N hydrochloric acid was added to the residue, and extraction with ethyl acetate was carried out. The extract layer was washed with water, and the solvent was distilled off under reduced pressure to obtain 235.9 g of the desired product as a pale yellow liquid. nD20.6 1.4788

reactant | sodium methoxide | 74.8 g | C[O-].[Na+]
reactant | ethyl chlorodifluoroacetate | 200 g | ClC(C(=O)OCC)(F)F | C4H5ClF2O2
reactant | cyclopropyl methyl ketone | 106 g | CC(=O)C1CC1 | C5H8O
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 1 l | CCOCC | C4H10O
product | 1-Chloro-4-cyclohexyl-1,1-difluoro-2,4-butanedione | 235.9 g | ClC(C(CC(=O)C1CCCCC1)=O)(F)F | C10H13ClF2O2
